US07253194B2
5-[1-(3-Phenyl-allyl)-1H-imidazol-4-yl]-4-(7-phenyl-heptanoylamino)-pent-2-enoic acid ethyl ester (30)
The 5-(1H-Imidazol-4-yl)-4-(7-phenyl-heptanoylamino)-pent-2-enoic acid ethyl ester (100 mg, 0.25 mmol) in DMF (1 mL) was treated with NaH (10 mg, 60%, 0.25 mmol) at room-temperature. After 5 minutes cinnamyl bromide (50 mg, 0.25 mmol) was added, and the solution stirred overnight. Analytical HPLC showed the product was a 60:40 mixture of τ (required) and π (undesired) isomers respectively. The solution as taken up into water and acetonitrile and subject to reverse phase HPLC (30% B to 100% B over 25 min). The product, a mixture of both isomers, was obtained as an oil (88 mg, 68%), ESMS 514 (M+H+). 13C NMR δ 174.72, 174.67, 174.22, 171.69, 170.52, 166.20, 145.85, 142.93, 138.31, 138.16, 137.81, 137.45, 134.89, 134.81, 133.37, 132.86, 131.49, 131.39, 129.26, 128.98, 128.52, 128.34, 127.04, 125.68, 122.23, 119.68, 119.61, 119.54, 118.93, 114.55, 63.08, 61.90, 60.91, 60.79, 57.59, 54.77, 52.59, 52.53, 51.49, 50.21, 37.04, 36.14, 35.99, 33.44, 31.44, 29.61, 29.18, 29.13, 29.03, 28.97, 25.67, 25.62, 25.46, 14.27, 14.05.

reactant | 5-(1H-Imidazol-4-yl)-4-(7-phenyl-heptanoylamino)-pent-2-enoic acid ethyl ester | 0.25 mmol, 100 mg | C(C)OC(C=CC(CC=1N=CNC1)NC(CCCCCCC1=CC=CC=C1)=O)=O | C23H31N3O3
reactant | NaH | 0.25 mmol, 10 mg | [H-].[Na+]
reactant | cinnamyl bromide | 0.25 mmol, 50 mg | C(C=CC1=CC=CC=C1)Br | C9H9Br
reactant | water | O | H2O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | acetonitrile | C(C)#N | C2H3N
product | 5-[1-(3-Phenyl-allyl)-1H-imidazol-4-yl]-4-(7-phenyl-heptanoylamino)-pent-2-enoic acid ethyl ester | 88 mg, 68% | C(C)OC(C=CC(CC=1N=CN(C1)CC=CC1=CC=CC=C1)NC(CCCCCCC1=CC=CC=C1)=O)=O | C32H39N3O3
